US06992107B1
Cyclohexyl 5-amino-4-oxopentanoate hydrochloride [compound 7]
From cyclohexanol (6.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 80° C. Thionyl chloride was added at room temperature. The reaction was, complete after 3 h. The yield was 1.48 g (99%).

reactant | cyclohexanol | 6.0 ml | C1(CCCCC1)O | C6H12O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | Cyclohexyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OC1CCCCC1)=O | InChI=1S/C11H19NO3.ClH/c12-8-9(13)6-7-11(14)15-10-4-2-1-3-5-10;/h10H,1-8,12H2;1H
